US07504403B2
3-Nitro-9-(2-phenethylamino-pyrimidin-4-yl)-2-phenyl -6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one:
A solution of 9-(2-methanesulfonyl-pyrimidin-4-yl) -3-nitro-2-phenyl -6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one (220 mg, 0.51 mmol) and phenethylamine (0.13 mL, 1.0 mmol) in dichloromethane (2 mL) was heated to 80° C. for 1 h. Residue purified on silica, and final product isolated as a white solid. M+1=470.

reactant | 9-(2-methanesulfonyl-pyrimidin-4-yl) -3-nitro-2-phenyl -6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.51 mmol, 220 mg | CS(=O)(=O)C1=NC=CC(=N1)N1CCCN2C1=NC(=C(C2=O)[N+](=O)[O-])C2=CC=CC=C2 | C18H16N6O5S
reactant | phenethylamine | 1.0 mmol, 0.13 mL | C(CC1=CC=CC=C1)N | C8H11N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-Nitro-9-(2-phenethylamino-pyrimidin-4-yl)-2-phenyl -6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | [N+](=O)([O-])C1=C(N=C2N(C1=O)CCCN2C2=NC(=NC=C2)NCCC2=CC=CC=C2)C2=CC=CC=C2 | C25H23N7O3
